Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"This has happened three times"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR including Dr. ___ and Dr. ___ 
initial consultation notes dated ___ and Dr. ___ 
admission note dated ___. 
.
Briefly, this is a ___ year old woman, with unclear psychiatric 
diagnosis but history of psychosis, catatonia, s/p 2 prior 
psychiatric hospitalizations, no known prior suicide attempts, 
who presented to ___ due to concerns for psychosis in the
setting of cannabis use and symptoms concerning for catatonia. 
History from patient was limited, but according to collateral 
obtained in the ED from her parents revealed a history of 
similar episodes with apparent subacute to acute onset of 
profound psychotic symptoms with poor sleep, poor po intake, 
bizarre behaviors, withdrawal, periods of mutism and with mental 
status examination concerning for
psychosis and catatonia.
.
Upon initial interview, patient was withdrawn and failed to 
verbalize answers to most questions posed by the interviewer. 
Patient would make eye contact when her voice was called, but 
would otherwise ignore the interviewer. Remainder of history was 
provided by parents who were at bedside. According to parents, 
patient had not been sleeping for the 5 days prior to admission, 
she seems restless at time and very still at others. She was 
agitated intermittently which they describe as "yelling and 
speaking loudly" but for the most part was more withdrawn 
talking less, and day of admission not talking at all. She has 
exhibited some uncharacteristic/disorganized behavior such as 
running around the neighborhood today requiring her parents to 
___ her. They also reported decreased PO intake.
.
ED course: Patient was noted to have signs and symptoms of 
catatonia and received an Ativan challenge 1 mg IV with 
improvement in catatonic symptoms. 
.
On admission, patient was notably uncomfortable, grimacing 
frequently with alternating periods of psychomotor agitation and 
periods of closing her eyes with unresponsiveness. History 
significantly limited by psychosis and mental status. Patient 
initially reported she "feels okay" but then stated, "regret 
hurts... my baby, there were twins they got taken away." She 
then went on to state something about ___ I called the 
thinking thing... practice this device and poetry." She then 
started to cry, stating, "my mind keeps going around and 
around... I fear they will find me." When asked who "they" were, 
she stated, "the ___, I was going to join the ___ 
___." Due to distress, the remainder of the interview was 
terminated. 
 
Past Medical History:
None
 
Social History:
___
___ History:
Denies
 
Physical Exam:
Admission Physical Examination:
VS:  97.6    117/81   88    18    96%RA  
General- well nourished, in apparent distress 
Skin- no lesions noted 
HEENT- normocephalic, atraumatic, PERRL 
Lungs- CTAB, no w/r/r 
CV- S1, S2, no m/r/g
Abdomen: non distended, normoactive bowel sounds, non tender to
palpation 
Extremities- WWP, no edema noted 
Neuro- 
CN: deferred due to psychosis, patient cannot participated 
Motor: patient cannot participate in motor exam due to psychosis 

Exam also notable for withdrawal, automatic obedience, +grasp
reflex 

Neuropsychiatric Examination:
  *Appearance: Appears stated age, dressed in hospital gown,
adequate hygiene and grooming 
  Behavior: poor eye contact with interviewer, alternates 
between
periods of grimacing and crying and periods of unresponsiveness
with eyes closed.  
  *Mood and Affect: "okay"/labile
  *Thought process: severely disorganized 
  *Thought Content: paranoid delusions present, did not endorse 
SI/HI
  *Judgment and Insight: poor/poor 
  Cognition:
    *Attention, *orientation, and executive function: awake,
alert. Cannot formally test 
    *Memory: cannot formally test 
    *Fund of knowledge: cannot formally test 
    *Speech: soft in rate, word salad, incoherent at times 
 
Pertinent Results:
___ 10:40AM BLOOD WBC-6.8 RBC-4.47 Hgb-12.0 Hct-38.3 MCV-86 
MCH-26.8 MCHC-31.3* RDW-13.2 RDWSD-40.9 Plt ___
___ 10:40AM BLOOD Neuts-68.6 ___ Monos-8.1 Eos-0.6* 
Baso-0.4 Im ___ AbsNeut-4.65 AbsLymp-1.49 AbsMono-0.55 
AbsEos-0.04 AbsBaso-0.03
___ 10:40AM BLOOD Plt ___
___ 03:45AM BLOOD Glucose-84 UreaN-7 Creat-0.8 Na-140 K-4.2 
Cl-102 HCO3-25 AnGap-13
___ 10:55PM BLOOD ALT-32 AST-32 CK(CPK)-619* AlkPhos-58 
TotBili-0.6
___ 05:10PM BLOOD CK(CPK)-357*
___ 03:45AM BLOOD Calcium-9.4 Phos-3.7 Mg-2.1
___ 05:10PM BLOOD calTIBC-391 VitB12-718 Folate->20 
Ferritn-93 TRF-301
___ 10:55PM BLOOD TSH-0.55
___ 03:45AM BLOOD Lithium-0.7
___ 10:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
This is a ___ year old woman, with unclear psychiatric diagnosis 
but history of psychosis, catatonia, s/p 2 prior psychiatric 
hospitalizations, no known prior suicide attempts, who presented 
to ___ due to concerns for psychosis in the
setting of cannabis use and symptoms concerning for catatonia. 
History from patient was limited, but according to collateral 
obtained in the ED from her parents revealed a history of 
similar episodes with apparent subacute to acute onset of 
profound psychotic symptoms with poor sleep, poor po intake, 
bizarre behaviors, withdrawal, periods of mutism and with mental 
status examination concerning for psychosis and catatonia.
.
History and presentation is concerning for underlying bipolar 
affect disorder, but primary psychotic disorder is still a 
distinct possibility. A mood disorder seems likely as when 
patient became able to communicate, she expressed that prior to 
her first psychiatric admission in ___, she was 
experiencing symptoms consistent with depression such as 
depressed mood, decreased energy, and decreased interest in 
activities. At that time, patient also started experimenting 
with cannabis. From records obtained from previous 
hospitalization, patient's previous presentations were of a 
similar nature with cannabis use shortly before hospitalization 
and subsequent decreased sleep, disorganized behavior, 
delusional thoughts, and hallucinatory behavior. 
.
#. Legal/Safety: patient admitted to Deacon___ on a ___, upon admission, she could not sign a conditional voluntary 
form. Signed CV on ___, which was accepted. Has consistently 
denied suicidal ideation or thoughts of self harm. Was initially 
on 5 minute checks upon arrival to unit, but advanced to 15 
minute checks and did not require physical or chemical 
restraints.
.
#. Psychosis: with catatonic features
- ___ work up including B12, RPR, TSH unremarkable 
- Patient was compliant in meeting with his treatment team and 
attended groups, maintaining adequate behavioral control during 
his hospitalization. 
- Did not initiate antipsychotics, as patient is declining at 
this time and given risk of precipitating NMS 
- Given response to Lorazepam challenge, Ativan 2 mg po tid was 
initiated and eventually down titrated to 2 mg po bid and 1 mg 
po qd in the afternoon. Patient tolerated this with no notable 
side effects. 
- After discussion of potential risks and benefits, started 
Lithium 300 mg PO BID, which patient tolerated with no notable 
side effects, with ___ level on ___ of 0.7.
- Given concern for bipolar disorder with episodes of depression 
in the past, we did discuss the risks and benefits of adding on 
a second generation antipsychotic (Latuda), which the patient 
declined, stating she strongly preferred to be on as few 
medications as possible. 
- Collateral obtained from family as noted in HPI demonstrated 
that prior to first hospitalization in ___, patient 
was a successful student and eventually started to have a 
successful career in the ___ in ___. 
Patient did not demonstrate symptoms typical of primary 
psychotic disorder, nor did she have any past psychiatric 
diagnoses or treatments prior to this year.
- We requested records from previous hospitalization at ___, 
and records demonstrated a very similar presentation, but with 
less prevalent signs of catatonia. At that time they started 
patient on Risperidone with modest effect. 
- Family meeting was held with patient with attendance by 
patient's mother, brother, and best friend. Family demonstrated 
support of patient, and patient was able to ask questions 
regarding her treatment and diagnosis. The importance of 
medication compliance was stressed during this meeting, and 
patient and family expressed understanding. Future employment 
and functioning in society was discussed, and patient was 
reassured that she should be able to make a full recovery and 
eventually work again in the field that she is passionate about 
(music). Patient and family agreed though that for approximately 
the next 6 months she would make her mental health her job and 
focus on getting well with frequent follow up with her primary 
psychiatrist and therapist, medication compliance, and avoidance 
of further use of cannabis. Patient and family also expressed 
understanding and desire to get involved in the PREP program 
upon discharge. The family understands and are in agreement with 
the current treatment and discharge plan.
- Again, patient consistently denied suicidal ideation/homicidal 
ideation throughout her psychiatric hospitalization. By time of 
discharge, on the above medication regimen, her psychosis had 
improved significantly with thought process that was linear, 
goal and future oriented, denial of AVH. Her ADL's had improved 
significantly and she was able to care for herself 
independently. 
.
#. Cannabis use
- Psychoeducation on deleterious effects of cannabis and mental 
health, patient understands these risk as did her family and the 
treatment team's strong clinical recommendation to avoid 
cannabis and all other illicit drugs in the future. 
.
#. Elevated CK: likely secondary to dehydration and catatonia 
with labs that were downtrending during her hospitalization 
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Lithium Carbonate SR (Lithobid) 300 mg PO BID 
RX *lithium carbonate 300 mg 1 tablet(s) by mouth twice daily 
Disp #*28 Tablet Refills:*0 
2.  LORazepam 2 mg PO BID catatonia  
RX *lorazepam [Ativan] 2 mg 1 tab by mouth twice daily (In 
morning and evening) Disp #*28 Tablet Refills:*0 
3.  LORazepam 1 mg PO DAILY catatonia  
please take 1 mg in the afternoon  
RX *lorazepam [Ativan] 2 mg 0.5 (One half) tab by mouth once 
daily (in afternoon) Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Psychosis with catatonic features
Cannabis use disorder 

 
Discharge Condition:
Vitals: 98.6 PO; 104/73; 82; 16; 96% R/A 
Appearance/Behavior: Appears stated age, dressed in casual 
clothing with good hygiene and grooming, calm, cooperative and 
pleasant with
interviewer, good eye contact, no psychomotor agitation or 
retardation noted 
Speech: soft in volume, normal rate, prosody, goal directed
Mood: 'Better' 
Aaffect: good range, mood congruent, appropriate, smiling and 
laughing
appropriately 
Thought Content: no presence of delusions, obsessions, HI, or SI
Thought Process: linear, logical, goal and future oriented
Consciousness: awake, alert and oriented x3
Insight/Judgment: improved/improved
Ambulatory Status: Ambulates independently.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___